* C:\Users\ruseler\Documents\GitHub\AOS-QUIZES\TE07\LTspice\TJB+FETs\COMB04op.asc
RC cc N001 {RC}
Vcc cc 0 {Vcc}
Q2 N001 N003 0 0 TBJ2
Q1 N003 N002 N001 0 TBJ1
RB N002 0 {RB}
.model NPN NPN
.model PNP PNP
.lib C:\Users\ruseler\AppData\Local\LTspice\lib\cmp\standard.bjt
.op
.param Vcc=25 RB=1.5Meg RC=18
.model TBJ1 PNP(IS=15F BF=5)
.model TBJ2 NPN(IS=15F BF=5)
.backanno
.end
